US04454320
5-(5-Benzoyl-2-thienyl)oxazolidine-2,4-dione
5-[5-(2-Phenyl-1,3-dioxolan-2-yl)-2-thienyl]-oxazolidine-2,4-dione (0.40 g.) was dissolved in 30 ml. of ether and stirred with 10 ml. of 6 N hydrochloric acid at room temperature for 1 hour. Ethyl acetate (10 ml.) was added, and the organic layer was separated and evaporated in vacuo to dryness (0.388 g.). Chromatography on 50 ml. of silica gel, eluted with 1:1 hexane:ethyl acetate/5% acetic acid and monitored by tlc, gave in early fractions purified 5-(5-benzoyl-2-thienyl)oxazolidine-2,4-dione (0.22 g., m.p. 153°-155° C., m/e 287).

reactant | 5-[5-(2-Phenyl-1,3-dioxolan-2-yl)-2-thienyl]-oxazolidine-2,4-dione | 0.40 g | C1(=CC=CC=C1)C1(OCCO1)C1=CC=C(S1)C1C(NC(O1)=O)=O | C16H13NO5S
reactant | ether | CCOCC | C4H10O
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | Ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 5-(5-Benzoyl-2-thienyl)oxazolidine-2,4-dione | C(C1=CC=CC=C1)(=O)C1=CC=C(S1)C1C(NC(O1)=O)=O | C14H9NO4S
